* Z:\mnt\spice-netlists\LTC3805_LT1797_Neg_Cuk.asc
XU1 N015 N011 N004 0 N010 LT1797
R1 N011 N010 5.1K
R2 OUT N011 76.8K
R3 0 N015 4.75K
XU2 N009 N014 N010 N001 N012 MP_01 N007 0 N004 N006 0 LTC3805-5
R4 N001 IN 100K
R5 N012 0 75K
C1 N009 0 0.01n
R6 N014 N013 20K
C2 N013 0 10n
M§Q1 N002 N006 N008 N008 BSC059N04LS
R7 N008 0 0.005
L1 N002 IN 4.7µ
L2 N003 OUT 4.7µ
V1 IN 0 12
C3 OUT 0 20µ
D1 N003 0 PDS5100
C4 N003 N002 100µ
R8 IN N004 200
C5 0 OUT 220µ
R9 N008 N007 3.1K
R10 N001 0 20.5K
C6 N004 0 4.7µ
M§Q2 N001 N005 0 0 2N7002
V2 N005 0 PWL(0 0 2.0m 0 2.01m 5)
Rload OUT 0 4
C7 IN 0 20µ
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 3m
K L1 L2 1
* LTC3805-5 - Adjustable Frequency Current Mode Flyback/ Boost/SEPIC DC/DC Controller\nLT1797 - 10MHz, Rail-to-Rail Input and Output Op Amp\nPositive-to-Negative Cuk Converter\nInput: 8V to 16V     Output: -12V @ 3A
* Notes: \n  V2 is being used to enables converter for 2ms and then shuts it down.\n  LT1797 is being used as a differential amplifier for sensing negative voltage; allowing reference control signals to use ground.\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2013 Linear Technology Inc.  All rights reserved.
.lib LTC.lib
.lib LTC3805-5.sub
.backanno
.end
